US08236826B2
Production of ethyl[4-(4-amino-2-fluorophenoxy)phenylsulfanyl]acetate
To a solution of ethyl[4-(2-fluoro-4-nitrophenoxy)phenylsulfanyl]acetate (4.93 g, 14.0 mmol) in ethanol (100 mL) was added tin chloride dihydrate (9.50 g, 42.1 mmol), and the resulting solution was stirred for 8 hours at 50° C. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with 1 M hydrochloric acid, a saturated sodium bicarbonate solution, and brine, dried over anhydrous sodium sulfate, and evaporated, to thereby yield 3.45 g of the title compound.

reactant | ethyl[4-(2-fluoro-4-nitrophenoxy)phenylsulfanyl]acetate | 14.0 mmol, 4.93 g | C(C)OC(CSC1=CC=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C16H14FNO5S
reactant | tin chloride dihydrate | 42.1 mmol, 9.50 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | Water | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl[4-(4-amino-2-fluorophenoxy)phenylsulfanyl]acetate | C(C)OC(CSC1=CC=C(C=C1)OC1=C(C=C(C=C1)N)F)=O | C16H16FNO3S
